US07476666B2
Step 6: Methyl 3-benzyloxy-7-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of dimethyl 4-(benzyloxy)-1-{2-[(tert-butoxycarbonyl)amino]-1-(ethoxycarbonyl)ethyl}-1H-pyrazole-3,5-dicarboxylate (6.97 g, 13.78 mmol) in CHCl3 (150 mL) was added TFA (30 mL). The reaction was allowed to stir at room temperature overnight. The solvent was removed in vacuo, and the residue was partitioned between saturated aqueous NaHCO3 solution and CHCl3. The aqueous layer was extracted three times with CHCl3, and the combined organic extracts were dried over Na2SO4. Concentration in vacuo afforded a yellow oil which was dissolved in EtOAc (30 mL) and sonicated. The resulting precipitate was collected by filtration to afford the title product as a white solid. The filtrate was further purified by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA), and collection and concentration of the appropriate fractions afforded additional title product as a white solid. 1H NMR (400 MHz, d6-DMSO) δ 8.38 (d, J=5.2 Hz, 1H), 6.45-7.43 (m, 2H), 7.38-7.30 (m, 3H), 5.55 (d, J=4.0 Hz, 1H), 5.26 (dd, J=11.2, 40.0 Hz, 2H), 4.23-4.14 (m, 2H), 3.97 (dd, J=5.0, 13.8 Hz, 1H), 3.79 (s, 3H), 3.71 (dd, J=5.4, 13.8 Hz, 1H), 1.18 (t, J=7.0 Hz, 3H); ES MS (M+H)=374.

reactant | dimethyl 4-(benzyloxy)-1-{2-[(tert-butoxycarbonyl)amino]-1-(ethoxycarbonyl)ethyl}-1H-pyrazole-3,5-dicarboxylate | 13.78 mmol, 6.97 g | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OC)C(CNC(=O)OC(C)(C)C)C(=O)OCC)C(=O)OC | C24H31N3O9
reactant | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | Methyl 3-benzyloxy-7-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(NCC2C(=O)OCC)=O)C(=O)OC | C18H19N3O6
